US07220865B2
Hydroxylamine HCl (20.3 mmol) was dissolved in 14.9 mL of 2.5 M aqueous NaOH solution at rt and 4-Cyclopentyl-but-2-ynenitrile (16.9 mmol) was added in solution with 50 mL EtOH. The cloudy suspension was stirred at rt for 2 hours. The reaction material was then diluted with 200 mL of Et2O and washed with two 50 mL portions of water, followed by 50 mL of aqueous saturated sodium chloride solution. The organics were then dried over Na2SO4, filtered and concentrated under reduced pressure. The crude products were then purified through flash chromatography to give 5-Cyclopentylmethyl-isoxazol-3-ylamine.

reactant | Hydroxylamine HCl | 20.3 mmol | Cl.NO
reactant | 4-Cyclopentyl-but-2-ynenitrile | 16.9 mmol | C1(CCCC1)CC#CC#N | C9H11N
reactant | EtOH | 50 mL | CCO | C2H6O
solvent | NaOH | 2.5 M, 14.9 mL | [OH-].[Na+]
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 5-Cyclopentylmethyl-isoxazol-3-ylamine | C1(CCCC1)CC1=CC(=NO1)N | C9H14N2O
